US07582657B2
(2E)-N-[3-(hydroxymethyl)-1-methyl(7-1,2,3,4-tetrahydroquinolyl)]-3-[4-(trifluoromethyl)phenyl]prop-2-enamide
A mixture of (2E)-N-[3-(hydroxymethyl)(7-1,2,3,4-tetrahydroquinolyl)]-3-[4-(trifluoromethyl)phenyl]prop-2-enamide, Example 87, (75 mg, 0.20 mmol), iodomethane (0.014 mL, 0.22 mmol, Aldrich) and NaHCO3 (84 mg, 1.0 mmol) in DMF (1.0 mL, Aldrich) was stirred for 4 h at room temperature. Water (5 mL) was added and the mixture was extracted with EtOAc (2×20 mL). The combined organic phases were washed with water (5 mL), satd NaCl (5 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (60% EtOAc/CH2Cl2) provided the title product as a white solid. MP 167-169° C. MS (ESI, pos. ion) m/z: 391 (M+1).

reactant | (2E)-N-[3-(hydroxymethyl)(7-1,2,3,4-tetrahydroquinolyl)]-3-[4-(trifluoromethyl)phenyl]prop-2-enamide | OCC1CNC2=CC(=CC=C2C1)NC(\C=C\C1=CC=C(C=C1)C(F)(F)F)=O | C20H19F3N2O2
reactant | iodomethane | 0.20 mmol, 0.014 mL, 75 mg | IC | CH3I
reactant | NaHCO3 | 1.0 mmol, 84 mg | C(=O)(O)[O-].[Na+]
reactant | Water | 5 mL | O | H2O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (2E)-N-[3-(hydroxymethyl)-1-methyl(7-1,2,3,4-tetrahydroquinolyl)]-3-[4-(trifluoromethyl)phenyl]prop-2-enamide | OCC1CN(C2=CC(=CC=C2C1)NC(\C=C\C1=CC=C(C=C1)C(F)(F)F)=O)C | C21H21F3N2O2
